* Schematics Netlist *



C_C1         $N_0001 V_out  47p  
E_U1         V_out 0 VALUE {LIMIT(V(GND,$N_0001)*1,-15V,+15V)}
R_R_feedback         $N_0001 V_out  10k  
R_R5         0 $N_0002  1k  
R_R_flexiforce         $N_0001 $N_0002  600k  
R_R4         $N_0002 $N_0003  4k  
V_V3         $N_0003 GND -5V
