* Schematics Netlist *



V_V1         $N_0001 0 5V
R_R2         0 $N_0002  0.5M  
R_R1         $N_0002 $N_0001  4.5M  
R_Rfeedback         $N_0003 Vout  1M  
E_MCP6004         Vout 0 VALUE {LIMIT(V($N_0002,$N_0003)*1E6,-3.3V,+3.3V)}
R_Rflexiforce         0 $N_0003  0.15M  
