* Schematics Netlist *



V_V1         $N_0001 0 5V
R_R2         0 Vout  1k  
RT_R5         Vout $N_0001 {(1K*(1-0.5))+.001}
RB_R5        $N_0001 $N_0001 {(1K*0.5)+.001}
